US04958026
0.6 g of N-[2-(2,3-diamino-4-methoxyphenyl)ethyl]-N,N-dimethylamine is heated under reflux with 10 ml of acetic acid for 3 hours. The reaction mixture is concentrated, taken up in ethyl acetate, and extracted by shaking with sodium bicarbonate solution. The organic phase is separated, dried with sodium sulfate, and concentrated, thus obtaining 286 mg of 7-methoxy-4-[2-(N,N-dimethylamino)ethyl]-2-methylbenzimidazole as an oil.

reactant | N-[2-(2,3-diamino-4-methoxyphenyl)ethyl]-N,N-dimethylamine | 0.6 g | NC1=C(C=CC(=C1N)OC)CCN(C)C | C11H19N3O
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 7-methoxy-4-[2-(N,N-dimethylamino)ethyl]-2-methylbenzimidazole | 286 mg | COC1=CC=C(C2=C1N=C(N2)C)CCN(C)C | C13H19N3O
